US06485886B1
(5-Diphenylphosphoryloxyimino-5H-thiophen-2-ylidene)-(2-methy1phenyl)-acetonitrile
4.7 g (20 mmol) of (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile, prepared as described in example 7.1, are dissolved in 50 ml of THF and cooled in an ice bath. After adding 5.1 g (21 mmol) of diphenylphosphinic chloride to the solution, 3.0 g (29 mmol) of triethylamine are added dropwise, keeping the temperature below 5° C. The reaction mixture is stirred at 5° C. for 30 min. The reaction mixture is poured into 50 ml of water, and filtered off. The yellow solid is washed with 50 ml of water and 50 ml of a mixture of water and CH3OH (10:1). The product is purified by the recrystallization from 2-PrOH to afford a yellow solid, mp 165-167° C.(Dec). The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 2.31 (s, 3H), 6.09 (d, 1H), 6.82 (d, 1H), 7.12-7.35 (m, 4H), 7.48-7.65 (m, 6H), 7.95-8.04 (m, 4H).

reactant | (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | 20 mmol, 4.7 g | ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C | C13H10N2OS
reactant | diphenylphosphinic chloride | 21 mmol, 5.1 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | triethylamine | 29 mmol, 3.0 g | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (5-Diphenylphosphoryloxyimino-5H-thiophen-2-ylidene)-(2-methy1phenyl)-acetonitrile | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C | C25H19N2O2PS
